US08455488B2
Synthesis of (S)—N-(benzo[b]thiophen-3-ylmethyl)-1,1-diethoxypropan-2-amine (Compound IX-6)
According to the procedure described in the synthesis method of Compound IX-2, (S)-1,1-diethoxypropan-2-amine (Compound XIX-1) 883 mg (6.0 mmol) was reacted with benzo[b]thiophene-3-carbaldehyde 827 mg (5.1 mmol) to obtain the title compound 1.45 g (97%).

reactant | (S)-1,1-diethoxypropan-2-amine | 6.0 mmol, 883 mg | C(C)OC([C@H](C)N)OCC | C7H17NO2
reactant | benzo[b]thiophene-3-carbaldehyde | 5.1 mmol, 827 mg | S1C2=C(C(=C1)C=O)C=CC=C2 | C9H6OS
product | (S)—N-(benzo[b]thiophen-3-ylmethyl)-1,1-diethoxypropan-2-amine | 1.45 g, 97% | S1C2=C(C(=C1)CN[C@H](C(OCC)OCC)C)C=CC=C2 | C16H23NO2S
